Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status
 
Major Surgical or Invasive Procedure:
BiPAP

 
History of Present Illness:
The patient is an ___ yo woman with PMHx of ischemic stroke (~1 
month ago; presented with difficulty seeing on the left side per 
son), afib on ___, CHF, CAD and HTN who was transferred to 
___ after presenting to an OSH with falls and AMS with NCHCT 
revealing a R occipital lobe hypodensity with multifocal 
hyperdensities within it. History is primarily provided per 
rehab report and per telephone conversation with son as pt is 
unable to provide a history due to mental status.

Per rehab reports, pt has had increasing confusion, anxiety and 
paranoia over the past several days. She also fell 3 times in 
the past 4 days and had no injuries during each fall. She 
reportedly never hit her head. She had routine labs checked at 
the nursing facility earlier in the week which were unremarkable 
including a UA, CMP, coags, and CBC. 

She was brought to an OSH ED after having a repeat fall on day 
of admission. At the OSH, ___ raised concern for hemorrhagic 
transformation of pt's recent ischemic stroke. She was then 
transferred to ___ for further management.

At baseline, per son, pt lives with her son and gets assistance 
with ADLs. She reportedly has no other cognitive issues. 1 month 
prior, son reports pt was hospitalized with "difficulty writing 
and seeing on the left side" where she was diagnosed with an 
ischemic stroke. Son does not recall the etiology of the stroke 
or how long pt had been on ___ for.

Otherwise, pt has known O2 dependence due to COPD (on ___ at 
the nursing facility).

A reliable ROS is unable to be obtained as pt is disoriented and 
confused.

MICU ADMISSION NOTE
Please see Neurology and SICU notes for full details. In brief, 
this is an ___ with a history of ischemic stroke (approximately 
1 month prior to admission), afib previously on ___, sCHF 
(EF ___, COPD on home O2, HTN who presented from rehab with 
falls and worsening of baseline confusion. ___ revealed minor 
subacute hemorrhagic transformation of her known R occipital 
lobe hypodensity. She was initially monitored in the SICU and 
transferred to the Neurology floor service with stable repeat 
head imaging. She was switched from Xeralto to asa 81mg.  
 Her hospital course has been complicated by altered mental 
status felt by the neurology team to be secondary to sundowning. 
She has triggered for agitation on ___ and had been receiving 
Haldol initially. She had difficulty with sleep/wake cycle and 
was often very sleepy in the morning. She was started on 
Seroquel on ___ with dose increased to 25mg on ___. This did 
not seem to help her altered mental status.  
 She was given Lasix 20mg on ___ because of concern for volume 
overload in addition to her home Lasix 40mg. Her Cr increased 
from 1.5 to 2.3 that was attributed to increased Lasix.  
 On day of transfer, the patient triggered again for altered 
mental status. An ABG showed hypercarbia (___). Mental 
status was gradually improving over the course of the morning.  

On arrival to the MICU, she was observed by respiratory therapy 
to be on 4L O2 with SaO2 in the high ___. Given her chronic 
hypoxia on 2L home O2, her oxygen was decreased, her SaO2 
decreased to low ___ and mental status continued to improve.   

Review of systems:  
Complained of non-specific abdominal pain, leg pain, shortness 
of breath. Denies chest pain, nausea, vomiting. 
 
Past Medical History:
Per rehab records:

Afib on ___
COPD
CHF
CAD
CKD
GERD
HTN
Hypothyroidism
Obesity
Osteoporosis
Cellulitis
 
Social History:
___
Family History:
Unable to attain social Hx more information due to AMS.
 
Physical Exam:
ADMISSION EXAM (___):

Physical Exam:

Vitals: 97.6 ___ 18 96% RA 
___:  NAD, chronically ill-appearing
HEENT: NCAT, no oropharyngeal lesions
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Exam: 

- Mental Status - Awake, alert, oriented to person only. States 
year ___, unable to state month. States on ___. 
Inattentive. Able to perform 2-step commands (but inconsistent) 
but not 3-step commands. Can state ___ backwards from ___ -> ___ 
only. Perseverates with stating ___ backwards. Decr naming of 
low frequency objects. Cannot repeat, limited by attention. 
Speaks fluent ___ word phrases. Normal prosody. No dysarthria. 
No evidence of hemineglect. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. +L hemianopia with finger 
wiggling. EOMI, no nystagmus. V1-V3 without deficits to light 
touch bilaterally. No facial movement asymmetry. Hearing intact 
to finger rub bilaterally.  Palate elevation symmetric. 
Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   1
R  1  1    1    1   1
Plantar response extensor bilaterally.

- Coordination - No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait - Deferred.

DISCHARGE EXAM 
___: Somnolent, but conversant, 
HEENT: Sclera anicteric, MMM 
NECK: supple, 
LUNGS: improving crackles in bilateral lung fields
CV: irregular, distant heart sounds, systolic murmur  
ABD: soft, diffuse mild tenderness, non-distended  
EXT: Warm, well perfused, pitting edema to thighs bilterally  
 
 
Pertinent Results:
ADMISSION LABS (___):

___ 09:25PM   LACTATE-2.3*
___ 09:21PM   CK(CPK)-80
___ 09:21PM   CK-MB-3
___ 09:13PM URINE  HOURS-RANDOM
___ 09:13PM URINE  UHOLD-HOLD
___ 09:13PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:13PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:13PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 LEUK-TR
___ 09:13PM URINE  RBC-0 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 09:13PM URINE  HYALINE-15*
___ 09:13PM URINE  MUCOUS-RARE
___ 08:34PM   K+-4.5
___ 08:30PM   GLUCOSE-147* UREA N-39* CREAT-1.5* SODIUM-142 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-30 ANION GAP-15
___ 08:30PM   estGFR-Using this
___ 08:30PM   ALT(SGPT)-53* AST(SGOT)-39 ALK PHOS-130* TOT 
BILI-0.8
___ 08:30PM   LIPASE-46
___ 08:30PM   cTropnT-0.09*
___ 08:30PM   ALBUMIN-4.0 CALCIUM-9.4 PHOSPHATE-3.1 
MAGNESIUM-2.6
___ 08:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:30PM   WBC-6.6 RBC-3.93 HGB-9.8* HCT-33.4* MCV-85 
MCH-24.9* MCHC-29.3* RDW-18.7* RDWSD-57.8*
___ 08:30PM   NEUTS-77.0* LYMPHS-10.6* MONOS-10.8 EOS-0.2* 
BASOS-0.6 NUC RBCS-0.8* IM ___ AbsNeut-5.08 AbsLymp-0.70* 
AbsMono-0.71 AbsEos-0.01* AbsBaso-0.04
___ 08:30PM   PLT COUNT-213
___ 08:30PM   ___ PTT-32.4 ___

Other labs

___ 07:27AM BLOOD WBC-6.5 RBC-3.98 Hgb-9.9* Hct-34.6 MCV-87 
MCH-24.9* MCHC-28.6* RDW-18.6* RDWSD-59.0* Plt ___
___ 08:30PM BLOOD Neuts-77.0* Lymphs-10.6* Monos-10.8 
Eos-0.2* Baso-0.6 NRBC-0.8* Im ___ AbsNeut-5.08 
AbsLymp-0.70* AbsMono-0.71 AbsEos-0.01* AbsBaso-0.04
___ 07:27AM BLOOD Glucose-103* UreaN-35* Creat-1.3* Na-143 
K-4.2 Cl-102 HCO3-30 AnGap-15
___ 07:15AM BLOOD ALT-48* AST-37 AlkPhos-117* TotBili-0.9
___ 07:15AM BLOOD cTropnT-0.09*
___ 08:30PM BLOOD cTropnT-0.09*
___ 07:27AM BLOOD Calcium-9.4 Phos-3.3 Mg-2.5
___ 07:15AM BLOOD %HbA1c-7.4* eAG-166*
___ 07:15AM BLOOD Triglyc-80 HDL-46 CHOL/HD-3.7 LDLcalc-107
___ 08:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 07:36AM BLOOD Lactate-1.6
___ 09:25PM BLOOD Lactate-2.3*

NCHCT ___
No change in appearance of right occipital hypodensity.  As 
suggested
previously, MRI can help further assessment.

NCHCt ___
No significant interval change compared to the outside hospital 
head CT. 
Stable hypodensity involving the right occipital lobe containing 
foci of
hemorrhage, differentials include a hemorrhagic infarction and 
less likely a
mass.  A MRI can be obtained for further evaluation.

MRI C-Spine ___
No significant interval change compared to the outside hospital 
head CT. 
Stable hypodensity involving the right occipital lobe containing 
foci of
hemorrhage, differentials include a hemorrhagic infarction and 
less likely a
mass.  A MRI can be obtained for further evaluation.

DISCHARGE LABS
___ 03:44AM BLOOD WBC-6.3 RBC-3.40* Hgb-8.2* Hct-28.5* 
MCV-84 MCH-24.1* MCHC-28.8* RDW-20.3* RDWSD-61.0* Plt ___
___ 03:21AM BLOOD Glucose-101* UreaN-39* Creat-2.0* Na-142 
K-4.2 Cl-95* HCO3-39* AnGap-12
___ 03:21AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with recent history of 
ischemic stroke (~1 month ago), afib on ___, CHF, CAD, and 
HTN, who was transferred to ___ after presenting to an OSH 
from rehab on ___ ___nd AMS. Patient was evaluated 
one month ago for an ischemic stroke associated with difficulty 
writing and left-sided visual field cut. Since then, patient was 
noted in her skilled nursing facility to have had 3 falls in the 
4 days prior to admission. Patient was noted to not hit her 
head, and continuous labs were reportedly collected at the ___ 
and found to be unremarkable, including her CBC, coags, UA, and 
CMP. Due to her recent falls and altered mental status, patient 
presented in the ED at ___, where ___ 
showed R occipital hypodensity with multifocal hyperdensities 
within it. Concerned for a hemorrhagic transformation of 
patient's recent ischemic stroke, patient was transferred to 
___ for further management and work-up. Of note, her 
labs/studies on transfer were notable for INR 1.6, creatinine 
1.7, positive UA, and elevated LFTs.

In the ___ ER, patient's repeat INR was 2.6, and lactate was 
2.3 (repeat lactate was normal th following day, and the INR 
trended down). Patient reported CP 3 days prior to presentation, 
so was also evaluated with EKG which showed non-specific ST 
segment changes w/ first set of troponins being 0.09 (repeat 
troponin stable at 0.09 in setting of known CKD). Her SBP was in 
the 160s. Her neurological exam in the ER was notable for a left 
hemifield cut, inattention, and myoclonus, and repeat NCHCT was 
stable. MRI of the cervical spine showed kyphosis and 
anterlisthesis but no acute injury. 

She was admitted to the Neurology Stroke service for subacuate 
hemorrhagic transformation of her prior infarct. Of note, 
patient was found to be agitated at this time, reportedly 
hitting someone. She was given IM Haldol, making her quite 
somnolent the following day. On exam the morning after 
admission, she was alert, inattentive, following simple 
appendicular commands, and moving extremities without focality. 
When her mental clarity improved and she could cooperate with 
visual field testing, a dense left hemianopia was demonstrated. 
An. MRI was deferred due to the likely need for sedation.

Her lab work demonstrated an INR 1.7, negative urine, and serum 
tox, negative UA, mildly elevated AST, LDL 107, and HbA1c of 
7.4. Her HR was intermittently in the 130s-140s in AFib, and her 
home metoprolol was restarted. AMS with a large stroke raised 
the possibility of seizure, but her EEG did show any 
epileptiform activity. 

She was evaluated by ___, who felt that she represented a 
substantial fall risk. Her ___ was discontinued, and she was 
started on aspirin therapy for atrial fibrillation and ischemic 
stroke prevention. On ___, she attempted to walk without 
supervision, and she fell onto her bottom and hit her head on a 
bedside tray table. Her neurological exam at that time was 
stable, with the exception of increased confusion. She became 
progressively more agitated, pulling out her line and nasal 
cannula (on home ___. She required a posey vest and IM 
Haldol. A repeat head CT was stable. She was also started on 
nightly seroquel. 

Unfortonately her agitation and medical problems have been 
difficult to control.  She swings between uncontrollable 
agitation and oversedation in the AM especially.  She continues 
to have periodic elevated HRs, O2 NC needs (chronic, worsened 
CO2 retention), hypernatremia.   On ___ trigger due to AM 
somnolence, she has an ABG consistent with CO2 retention. She 
was transferred to the MICU, but did not require BiPap on 
transfer: her respiratory status improved with holding Seroquel 
as well as titrating O2 saturations in the low 90's.

MICU COURSE:

#Altered mental status:
Waxes and wanes, periods of somnolence with relatively normal 
ABGs so less clearly secondary to hypercarbia. Required mitts to 
prevent pulling lines. Patient had recent increase in thyroid 
medication from 100 to 150 at rehab, but TSH wnl. Outpt bicarb 
was 31. DDx for AMS included UTI as well given enterococcus in 
urine. She was treated for enterococcal UTI with ceftriazone 
___, switched to ampicillin ___, and was put on Bipap for Co2 
retention at night. Despite these interventions, AMS persisted. 
Neurology was consulted who suggested NCCTH and cvEEG. 
Non-contrast head CT showed no acute change, and EEG showed no 
evidence of seizures. They felt that her AMS may be associated 
with encephalopathy and delirium. Her AMS improved during 
admission, likely secondary treatment of UTI, and improved 
hypercarbia with BiPAP. Patient is being discharged to rehab 
with BiPAP to be used at night for hypercarbia at settings of 
___. 

# UTI: Urine growing Enterococcus (but < 100 k colonies) on 
___, repeat urine culture on ___ grew out > 100 K 
enterococcus. Patient was started on ceftriaxone on ___, 
switched to ampicillin ___ and completed a 10 day course for 
complicated UTI. 

# Acute on chronic Hypercarbia: pH and pCO2 improved with lower 
SaO2 and with CPAP overnight. Patient was initially kept on CPAP 
intermittently, later switched to Bipap overnight. Her ABGs 
demonstrated improvement in hypercarbia and patient's BiPAP 
requirements decreased. Settings on discharge were ___ with 
documented desaturations <88% for >5 minutes on continuous O2 
monitoring. Her hypercarbia most likely is in the setting of 
obesity hypoventilation that has been acutely worsened in the 
setting of her stroke as below.

# s/p R occipital lobe ischemic stroke with hemorrhagic
transformation with residual inattention and left homonymous 
hemianopsia. Hemorrhagic conversion likely occurred in setting 
of multiple recent falls and anticoagulation. Stable non-con 
head CTs since admission. Her home ___ was initially held in 
setting  of hemorrhagic transformation, but home aspirin and 
atorvastatin were continued. ___ was then restarted on 
discharge. 

# chronic systolic heart failure: ECHO ___ with  EF ___. 
pitting edema in lower extremities. Chest xray without pulmonary 
edema, rising Cr with dialysis, improved with 500cc bolus. Gave 
another 500 cc bolus on ___, cr improved to 2.0 from 2.2. Cr. 
Patient developed fluid overload while in the MICU likely in the 
setting of fluid boluses and was diuresed with IV Lasix. Once 
she approached euvolemia, her home Lasix 40mg BID was restarted. 


# paroxysmal afib: had been on rivaroxaban for anticoagulation, 
but falling a lot at home. metoprolol uptitrated for rate 
control. ___ was restarted on discharge. Aspirin and 
amiodarone were continued.  

# ___ on CKD: admission Cre 1.3, outpt baseline creatinine 1.6 
at outpt nephrologist office. Her Cr. increased in the setting 
of volume overload. She was diuresed to evuvolemia and her Cr. 
remained stable. Lisinopril was restarted due to hx of CHF. 
However Cr. increased to 2.0, and thus Lisinopril was 
discontinued. Please consider restarting Lisinopril when 
appropriate.

TRANSITIONAL ISSUES
====================
[ ] Patient was quite agitated and reportedly hit someone. 
Patient was given IM Haldol, while tramadol and mirtazapine were 
held as they can worsen the delirium. These have been restarted 
given improvement of encephalopathy.
[ ] HbA1c was also found to be 7.4%, and we recommend a repeat 
A1c to guide management.
[ ] LDL 107; please monitor lipids as outpatient
[ ] Patient's ___ was initially held in setting of bleed, 
and was restarted on discharge
[ ] will need repeat sleep study as outpatient 
[ ] chem7 3x weekly for hypernatremia and Cr
[ ] alendronate weekly 
[ ] nutrition thickened liquids and pureed mechanical 
[ ] redo MOLST given patient no longer "Do Not Hospitalize"
[ ] recommend consulting palliative care
[ ] lisinopril held upon discharge; restart as Cr improves and 
BP tolerates
[ ] will likely need to be discharged on nocturnal BiPAP for 
management of her obesity hypoventilation 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 200 mg PO DAILY 
2. Atorvastatin 40 mg PO Frequency is Unknown 
3. Fluticasone Propionate NASAL 50 mcg NU DAILY 
4. Alendronate Sodium 70 mg PO QFRI 
5. Furosemide 40 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. PredniSONE 10 mg PO DAILY 
8. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
9. Spiriva with HandiHaler (tiotropium bromide) 18 mcg 
inhalation DAILY 
10. Rivaroxaban 15 mg PO DAILY 
11. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN as needed 
12. Milk of Magnesia (magnesium hydroxide) 400 mg/5 mL oral PRN 
13. Levothyroxine Sodium 100 mcg PO DAILY 
14. Mirtazapine 15 mg PO QHS 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN . 
16. Acetaminophen 325 mg PO Q6H:PRN . 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN . 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Amiodarone 200 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Fluticasone Propionate NASAL 50 mcg NU DAILY 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. QUEtiapine Fumarate 12.5 mg PO QHS 
9. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN as needed 
10. Alendronate Sodium 70 mg PO QFRI 
11. Spiriva with HandiHaler (tiotropium bromide) 18 mcg 
inhalation DAILY 
12. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Q6H:PRN Disp #*30 Tablet 
Refills:*0
13. Metoprolol Tartrate 50 mg PO BID 
14. Rivaroxaban 15 mg PO DINNER 
15. Bisacodyl 10 mg PO/PR DAILY 
16. Senna 8.6 mg PO QHS 
17. Vitamin D3 (cholecalciferol (vitamin D3)) 5,000 unit oral 
DAILY 
18. Klor-Con M20 (potassium chloride) 20 mEq oral DAILY 
19. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
20. Budesonide 0.25 mg/2 mL INHALATION DAILY 
21. Ezetimibe 10 mg PO DAILY 
22. Docusate Sodium 100 mg PO DAILY 
23. Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin
24. Furosemide 40 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Hemorrhagic conversion of prior right occipital stroke
-hypercarbic respiratory failure

SECONDARY DIAGNOSIS:
-urinary tract infection
-chronic toxic metabolic encephalopathy 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to a stroke, in which bleeding 
occurred in the back, right side of your brain, where you had a 
prior stroke a month ago. Sometimes, a stroke-induced injury to 
a part of the brain can weaken the blood vessels in the area, 
thereby predisposing that area to bleed. Furthermore, 
anticoagulation medication, such as ___, can prevent blood 
from clotting and thereby cause bleeding. We suspect that given 
your recent history of a stroke and anticoagulation use as well 
as your recent falls, you may have experienced such a scenario. 
Your CT scan and MRI imaging showed new bleeding in the same 
area of your prior stroke. For these reasons, you were admitted 
to the Neurology service at ___ for further evaluation and 
monitoring. 

You have an appointment to follow-up with Dr. ___ on ___ at 3:30 ___.

Because of concern for altered mental status, you were admitted 
to the ICU. Your mental status may have been diminished because 
of a urinary tract infection, being hospitalized, and because of 
increased carbon dioxide in your blood. You received a machine 
to help you breath at night which decreased the carbon dioxide 
in your blood. Your mental status has steadily improved. 

Thank you, and it was a pleasure to take part in your care.

Sincerely,
Your ___ Team

 
Followup Instructions:
___